US07834021B2
N-{2-[((3R)-1-{4-Hydroxy-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclohexyl}pyrrolidin-3-yl)amino]-2-oxoethyl}3-(trifluoromethyl)benzamide.
A flask was charged with the bis(pinacolato)diboron (538 mg, 2.1 mmol), KOAc (589 mg. 6 mmol), and the PdCl2(dppf) (49 mg, 0.06 mmol) under N2. A solution of the N-[2-({(3R)-1-[4-hydroxy-4-(4-iodophenyl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (1.23 g, 2 mmol) in DMSO (12 mL) in an addition funnel, degassed by bubbling N2 through it; was then added to the flask and the mixture was heated to 70° C. After 1 h, the reaction was quenched with water, extracted with CH2Cl2, concentrated to provide the desired compound (190 mg, 15%). LCMS: 616.2 (M+H+, 100%).

reactant | bis(pinacolato)diboron | 2.1 mmol, 538 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 6 mmol, 589 mg | CC(=O)[O-].[K+]
reactant | N-[2-({(3R)-1-[4-hydroxy-4-(4-iodophenyl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 2 mmol, 1.23 g | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=CC=C(C=C1)I | C26H29F3IN3O3
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.06 mmol, 49 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{2-[((3R)-1-{4-Hydroxy-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclohexyl}pyrrolidin-3-yl)amino]-2-oxoethyl}3-(trifluoromethyl)benzamide | 190 mg, 15% | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H41BF3N3O5
